US07612067B2
Preparation of 3-[5-(2,4-dimethyl-thiazol-5-yl)-3-methyl-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a −78° C. mixture of 2,4-dimethylthiazole (0.23 g, 2.04 mmol) and THF (3 mL) is added 1.6 M t-Bu-Li in hexane (1.30 mL, 2.09 mmol). The mixture is stirred at −78° C. for 15 minutes. 0.5 M ZnCl2 in THF (4.3 mL, 2.14 mmol) is added and the solution warmed to ambient temperature. 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.40 g, 1.02 mmol) and PdCl2(dppf) (0.037 g, 0.051 mmol) is added and mixture is stirred at 65° C. overnight, diluted with EtOAc (20 mL), washed with 10% citric acid (15 mL), water (15 mL), brine (15 mL), dried over MgSO4, filtered and concentrated. The residue is purified by silica gel chromatography (0%-15% EtOAc/hexane gradient) furnish the title compound (0.21 g, 0.49 mmol, 49%). 1H NMR (CDCl3), δ 0.87 (t, J=7.5 Hz, 6H), 1.73-1.91 (m, 4H), 2.14 (s, 3H), 2.49 (s, 3H), 2.52 (s, 3H), 2.57 (s, 3H), 2.66 (s, 3H), 3.28-3.38 (m, 1H), 6.68 (s, 1H), 7.00 (s, 1H). LC/MS (m/z): calcd. for C23H28N4S2 (M+H)+: 425.3; found: 425.2.

reactant | 2,4-dimethylthiazole | 2.04 mmol, 0.23 g | CC=1SC=C(N1)C | C5H7NS
reactant | t-Bu-Li | 1.6 M | C(C)(C)(C)[Li]
reactant | hexane | 2.09 mmol, 1.30 mL | CCCCCC | C6H14
reactant | 3-(5-bromo-3-methyl-thiophen-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 1.02 mmol, 0.40 g | BrC1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C18H22BrN3S
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | ZnCl2 | 0.5 M | [Cl-].[Cl-].[Zn+2]
catalyst | PdCl2(dppf) | 0.051 mmol, 0.037 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 2.14 mmol, 4.3 mL | C1CCOC1 | C4H8O
product | 3-[5-(2,4-dimethyl-thiazol-5-yl)-3-methyl-thiophen-2-yl]-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.49 mmol, 0.21 g, 49% | CC=1SC(=C(N1)C)C1=CC(=C(S1)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C)C | C23H28N4S2
